US04963590
5-(4-Benzyloxy-3-methoxyphenyl)-2,4-pentadienoic acid
To a solution containing 260 g of 4-benzyloxy-3-methoxybenzaldehyde and 200 ml of ethyl crotonate in 1200 ml of N-methylpyrrolidone was gradually added while stirring and cooling at 0° C. 149.6 g of potassium tert.-butoxide. The solution was stirred for 0.5 h after which 200 ml of 10 N NaOH-solution was added and stirred for 0.5 h more at 0° C. The reaction mixture was added to a mixture of hydrochloric acid and ice. The semisolid product was separated and used without purification to the next step.

reactant | 4-benzyloxy-3-methoxybenzaldehyde | 260 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | ethyl crotonate | 200 ml | C(\C=C\C)(=O)OCC | C6H10O2
reactant | potassium tert.-butoxide | 149.6 g | CC(C)([O-])C.[K+]
reactant | NaOH | 10 N, 200 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | N-methylpyrrolidone | 1200 ml | CN1C(CCC1)=O | C5H9NO
product | 5-(4-Benzyloxy-3-methoxyphenyl)-2,4-pentadienoic acid | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=CC=CC(=O)O)OC | C19H18O4
